US04885114
Preparation of Platinum (5-Bromo Octaethylporphine)
In a suitable 150 ml vessel 50 ml of dimethylformamide is brought to reflux and 20 mg 5-bromo octaethylporphine free base is added and dissolved. To this solution 8 mg platinum chloride is added and permitted to react for about 20 minutes. Thereafter, the reaction mixture is permitted to cool and crystal formation promoted by the addition of 50 ml distilled water. The reaction mixture is allowed to sit for about twenty four hours to increase crystal size. The reaction mixture is filtered by vacuum filtration and the solids retained.

reactant | 5-bromo octaethylporphine | 20 mg | BrC=1C2=C(C(=C(N2CC)C=C2C=CC(C=C3C(=C(C(=C(C=4C(=C(C1N4)CC)CC)CC)N3)CC)CC)=N2)CC)CC | C36H45BrN4
reactant | platinum chloride | [Pt](Cl)Cl
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | Platinum (5-Bromo Octaethylporphine) | BrC=1C2=C(C(=C(N2CC)C=C2C=CC(C=C3C(=C(C(=C(C=4C(=C(C1N4)CC)CC)CC)N3)CC)CC)=N2)CC)CC.[Pt] | InChI=1S/C36H45BrN4.Pt/c1-9-23-25(11-3)33-29(15-7)34-26(12-4)27(13-5)35(40-34)32(37)36-28(14-6)24(10-2)31(41(36)16-8)20-22-18-17-21(38-22)19-30(23)39-33;/h17-20,39H,9-16H2,1-8H3;
